US04080458
0.1 g. 11-hydroxy-15,15-ethylenedioxy-9-oxo-13-thia-5-prostenoic acid is reduced with NaBH4 analogously to Example 14 and the 9,11-dihydroxy-15,15-ethylenedioxy-13-thia-5-prostenoic acid obtained subsequently stirred at room temperature for 2 hours with 10 ml. IN aqueous HCl and 10 ml. dioxan. The reaction mixture is saturated with NaCl extracted with benzene, the organic phase dried and the solvent distilled off to obtain, as the residue, 9,11-dihydroxy-15-oxo-13-thia-5-prostenoic acid.

reactant | 11-hydroxy-15,15-ethylenedioxy-9-oxo-13-thia-5-prostenoic acid | OC1CC([C@H](CC=CCCCC(=O)O)[C@H]1SCC1(CCCCC)OCCO1)=O | C21H34O6S
reactant | NaBH4 | [BH4-].[Na+]
product | 9,11-dihydroxy-15,15-ethylenedioxy-13-thia-5-prostenoic acid | OC1[C@H](CC=CCCCC(=O)O)[C@H](C(C1)O)SCC1(CCCCC)OCCO1 | C21H36O6S
